US05462954
Methyl 5-(3-hydroxyphenoxy)pentanoate
A mixture of 11 g of resorcinol, 8.8 g of methyl 5-bromopentanoate, and 13.8 g of potassium carbonate in 150 mL of dimethylformamide was heated in an oil bath at 90° C. for 24 hours. The mixture was cooled, diluted with water, and extracted with ethyl acetate. The organic phase was washed with water, washed with saturated sodium chloride, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel eluting with hexane/ethyl ether providing the title intermediate in 34% yield, NMR.

reactant | resorcinol | 11 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | methyl 5-bromopentanoate | 8.8 g | BrCCCCC(=O)OC | C6H11BrO2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 5-(3-hydroxyphenoxy)pentanoate | 34% yield | OC=1C=C(OCCCCC(=O)OC)C=CC1 | C12H16O4
